US08183246B2
5-(4-Methoxyphenyl)-6-phenyl-N-[5-(1H-tetrazol-5-yl)pentyl]furo[2,3-d]pyrimidine-4-amine
Stir 1.00 g (2.4 mmol) 6-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexanenitrile, 4.19 g (26.3 mmol) trimethylsilylazide and 0.91 g (3.6 mmol) di-n-butyltin oxide in 50 ml toluene overnight at 80° C. After concentrating by evaporation, take up the residue in water, acidify with dilute hydrochloric acid and extract with methylene chloride. Wash the organic phase with sodium chloride solution, dry over magnesium sulphate and concentrate by evaporation. Purify the raw product by RP-HPLC (column: Gromsil 250 mm×40 mm, 10 μm; acetonitrile/water gradient: 0-3 min 10% acetonitrile, 3-50 min 10%→98% acetonitrile, 50-55 min 98% acetonitrile). Crystallize the combined product fractions from diethyl ether and dry overnight at 50° C. in a vacuum drying cabinet. 598 mg (54% of theor.) of the title compound is obtained as almost white crystals.

reactant | 6-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexanenitrile | 2.4 mmol, 1.00 g | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCCCC#N)C2=CC=CC=C2 | C25H24N4O2
reactant | trimethylsilylazide | 26.3 mmol, 4.19 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 3.6 mmol, 0.91 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methoxyphenyl)-6-phenyl-N-[5-(1H-tetrazol-5-yl)pentyl]furo[2,3-d]pyrimidine-4-amine | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCCCC2=NN=NN2)C2=CC=CC=C2 | C25H25N7O2
